US04369274
Preparation of 4-[(Diallylamino)carbonyl]-2,2,6,6-tetramethylpiperidine
4-Carboxy-2,2,6,6-tetramethylpiperidine (100 grams; 0.5405 mole) is added to thionyl chloride (300 mls) in portions and the reaction mixture is heated at reflux for 3 hours. The thionyl chloride is then removed by distillation, the last traces being removed by azeotropic distillation with toluene. The residual acid chloride is slurried in dichloromethane (300 mls), and a solution of diallylamine (105 grams; 1.081 mole) in dichloromethane (100 mls) is slowly added thereto while stirring and allowing the temperature to rise. Upon completion of the addition, the reaction mixture is heated at reflux for 18 hours, cooled to room temperature, and treated successively with 100 mls of water, and 5 N sodium hydroxide, while stirring, to adjust the pH to about 11. The organic phase is separated, and washed with dilute aqueous sodium hydroxide having a pH of 11. The aqueous phase is separated and the organic phase is washed twice with 100-ml portions of very dilute aqueous hydrogen peroxide (5 mls of 30% hydrogen peroxide diluted to 100 mls with water). After the second washing, the organic phase is washed twice with water, treated with activated carbon, dried over anhydrous magnesium sulfate, filtered and evaporated under vacuum to remove dichloromethane and unreacted diallylamine. The residue is then distilled under vacuum to obtain 60 grams of the desired product, bp 118°-128° C. at 0.05 mm of mercury, mp 64°-67° C.

reactant | 4-Carboxy-2,2,6,6-tetramethylpiperidine | 0.5405 mole, 100 grams | C(=O)(O)C1CC(NC(C1)(C)C)(C)C | C10H19NO2
reactant | thionyl chloride | 300 mls | S(=O)(Cl)Cl | Cl2OS
reactant | diallylamine | 1.081 mole, 105 grams | C(C=C)NCC=C | C6H11N
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | dichloromethane | 100 mls | ClCCl | CH2Cl2
solvent | water | 100 mls | O | H2O
product | 4-[(Diallylamino)carbonyl]-2,2,6,6-tetramethylpiperidine | 60 grams | C(C=C)N(C(=O)C1CC(NC(C1)(C)C)(C)C)CC=C | C16H28N2O
